US04929634
Ethyl 4-(p-chlorophenyl)-pyrrole-3-carboxylate
To a mixture of 5.63 g of a 60% sodium hydride/oil suspension in 200 mL of dry ether under nitrogen is added from an additional funnel a mixture of 23.5 g (122 mmol) of ethyl p-chlorocinnamate and 19.4 g (122 mmol) of (p-tolylsulfonyl)methyl isocyanide in solution in 180 mL of ether and 80 mL of dimethylsulfonide. The addition time is about 20 minutes and results in gentle refluxing of the mixture. After another 10 minutes stirring, the mixture is diluted with 100 mL of water. The mixture is extracted four times with ether which is then dried over magnessium sulfate followed by concentrated in vacuo. The resulting solid is recrystallized from ethylene dichlorite to give 7.8 g of crystals, m.p. 137°-138° C.

reactant | sodium hydride | [H-].[Na+]
reactant | ethyl p-chlorocinnamate | 122 mmol, 23.5 g | ClC1=CC=C(C=CC(=O)OCC)C=C1 | C11H11ClO2
reactant | (p-tolylsulfonyl)methyl isocyanide | 122 mmol, 19.4 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
solvent | ether | 200 mL | CCOCC | C4H10O
solvent | ether | 180 mL | CCOCC | C4H10O
solvent | water | 100 mL | O | H2O
product | Ethyl 4-(p-chlorophenyl)-pyrrole-3-carboxylate | 7.8 g | ClC1=CC=C(C=C1)C=1C(=CNC1)C(=O)OCC | C13H12ClNO2
